US06002008
6-Amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile
A mixture of 4.53 g (13.9 mmol) 4-[(3,4-difluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile, 200 ml ethanol and 15.72 g (69.4 mmol) SnCl2 dihydrate was heated to reflux under N2. Removed heat at 1.5 hours, added ice water and made basic with sodium bicarbonate. Stirred for 2 hours and extracted with chloroform. Stirred organic layer with Darco, dried with sodium sulfate and filtered. Stripped solvent and dried in vacuo, giving 3.660 g of yellow-green solid: mass spectrum (electrospray m/e): M+H=297.1.

reactant | 4-[(3,4-difluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 13.9 mmol, 4.53 g | FC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8F2N4O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile | 3.660 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)F | C16H10F2N4
